US09290476B2
tert-Butyl 3-(hydroxy(1-methyl-1H-1,2,3-triazol-5-yl)methyl)azetidine-1-carboxylate
A 2.5 M solution of n-butyllithium in hexanes (9.60 mL, 24.0 mmol) was added dropwise to a stirring solution of 1-methyl-1H-1,2,3-triazole (2.00 g, 24.0 mmol, prepared according to PCT Int. Appl., 2008098104) in dry THF (100 mL) at −50° C. The reaction became heterogeneous and yellow during addition. After 15 min, a solution of tert-butyl 3-formylazetidine-1-carboxylate (4.45 g, 24.0 mmol) in dry THF (10 mL) was added dropwise by syringe. The reaction mixture became homogeneous and was allowed to slowly warm to 0° C. Water (10 mL) and ethyl acetate (100) mL were added. The biphasic mixture was warmed to 23° C. The mixture was partitioned between half-saturated aqueous sodium chloride solution (100 mL) and ethyl acetate (300 mL). The layers were separated. The organic layer was dried with sodium sulfate and the dried solution was filtered. Celite (14 g) was added to the filtrate and the solvents were removed by rotary evaporation to provide a free-flowing powder. The powder was loaded onto a silica gel column. Elution with ethyl acetate initially, grading to 5% methanol-ethyl acetate provided the title compound as a white foam.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-methyl-1H-1,2,3-triazole | 24.0 mmol, 2.00 g | CN1N=NC=C1 | C3H5N3
reactant | tert-butyl 3-formylazetidine-1-carboxylate | 24.0 mmol, 4.45 g | C(=O)C1CN(C1)C(=O)OC(C)(C)C | C9H15NO3
reactant | Water | 10 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-(hydroxy(1-methyl-1H-1,2,3-triazol-5-yl)methyl)azetidine-1-carboxylate | OC(C1CN(C1)C(=O)OC(C)(C)C)C1=CN=NN1C | C12H20N4O3
